US04367238
A solution of potassium hydroxide (5.8 g) in water (30 ml) was added dropwise to a mixture of 2-hydroxy-3-(o-tolylthio)benzyl alcohol (8.3 g) and dimethyl sulfate (8.5 g) in 10 minutes at temperature below 60° C. with stirring, and the mixture was stirred at the same temperature for 10 minutes. The reaction mixture was treated in a similar manner to that of Example 21-(4). The resultant oily residue was purified by column chromatography (silica gel 150 g, benzene) to give oily 2-methoxy-3-(o-tolylthio)benzyl alcohol (8.5 g).

reactant | potassium hydroxide | 5.8 g | [OH-].[K+]
reactant | 2-hydroxy-3-(o-tolylthio)benzyl alcohol | 8.3 g | OC1=C(CO)C=CC=C1SC1=C(C=CC=C1)C | C14H14O2S
reactant | dimethyl sulfate | 8.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 30 ml | O | H2O
product | 2-methoxy-3-(o-tolylthio)benzyl alcohol | 8.5 g | COC1=C(CO)C=CC=C1SC1=C(C=CC=C1)C | C15H16O2S
